US06110962
5-Benzo[b]naphtho[2,3-d]thiophen-11-yl-2-methoxy-isophthalonitrile
A suspension of 11-(3,5-diiodo-4-methoxy-phenyl)-benzo[b]naphtho[2,3-d]thiophene (4.55 g, 7.68 mmol) and copper (I) cyanide 3.13 g, 38.4 mmol) in 1-methyl-2-pyrrolidinone (18 mL) was heated in an 150° C. oil bath under a dry nitrogen atmosphere. After 1 h the solution was added to water (200 mL) and acidified with 10% aqueous HCl. The solid was filtered and flash chromatographed (silica gel: eluent: methylene chloride) to provide the title compound as a yellow solid (2.47 g, 82%): mp 214-215° C.: MS (EI): [M+], 390 (100%, MI); Anal. Calc. for C25H14N2OS: C, 76.90, H, 3.61, N, 7.17. Found: C, 76.48, H, 3.46, N, 7.17.

reactant | 11-(3,5-diiodo-4-methoxy-phenyl)-benzo[b]naphtho[2,3-d]thiophene | 7.68 mmol, 4.55 g | IC=1C=C(C=C(C1OC)I)C1=C2C=CC=CC2=CC2=C1C1=C(S2)C=CC=C1 | C23H14I2OS
reactant | copper (I) cyanide | 38.4 mmol, 3.13 g | [Cu]C#N
reactant | water | 200 mL | O | H2O
reactant | HCl | Cl | ClH
reactant | 1-methyl-2-pyrrolidinone | 18 mL | CN1C(CCC1)=O | C5H9NO
product | 5-Benzo[b]naphtho[2,3-d]thiophen-11-yl-2-methoxy-isophthalonitrile | 2.47 g, 82% | C1=CC=CC=2SC3=C(C21)C(=C2C=CC=CC2=C3)C=3C=C(C(=C(C#N)C3)OC)C#N | C25H14N2OS
